US05078907
Preparation of Dibutyl Terephthalate
This compound was prepared by the procedure described for diethyl terephthalate. Typical reagent levels were as follows: terephthaloyl chloride (40.6 g, 0.20 mole), 1-butanol (29.6g, 0.40 mole), and 100 ml of toluene. Product yield was 75% and was used without further purification.

reactant | diethyl terephthalate | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
reactant | terephthaloyl chloride | 0.20 mole, 40.6 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 1-butanol | 0.40 mole, 29.6g | C(CCC)O | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Dibutyl Terephthalate | yield was 75% | C(C1=CC=C(C(=O)OCCCC)C=C1)(=O)OCCCC | C16H22O4
